US05684020
1-[(Cyclopenta[b]thien-5-yl)methyl]-4-(2,3dihydro-5-methoxybenzofuran-6-yl)piperazine
Prepared as described in Example 9, starting from (cyclopenta[b]thien-5-yl)carboxylic acid (Preparation 8) and 4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine. The fumarate of the title compound melts at 186°-190° C. (ethanol).

reactant | (cyclopenta[b]thien-5-yl)carboxylic acid | S1C=2C(=CC1)C=C(C2)C(=O)O | C8H6O2S
reactant | 4-(2,3-dihydro-5-methoxybenzofuran-6-yl)piperazine | COC=1C(=CC2=C(CCO2)C1)N1CCNCC1 | C13H18N2O2
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | 1-[(Cyclopenta[b]thien-5-yl)methyl]-4-(2,3dihydro-5-methoxybenzofuran-6-yl)piperazine | S1C=2C(=CC1)C=C(C2)CN2CCN(CC2)C2=CC1=C(CCO1)C=C2OC | C21H24N2O2S
